US06462068B1
1-Benzyl-3-cyanoindazole
420 mg of NaH (60% in oil, 10.3 mmol) were added in portions to 1.0 g of 3-cyanoindazole (7.0 mmol) and 1.7 ml of benzyl bromide (14.0 mmol) in 6 ml of THF, and the mixture was stirred at room temperature for 15 hours. The reaction was quenched with 2 drops of water, the mixture was concentrated and the residue was chromatographed (SiO2; petroleum ether:ethyl acetate 3:1). 1.3 g of a solid were obtained.

reactant | NaH | 10.3 mmol, 420 mg | [H-].[Na+]
reactant | 3-cyanoindazole | 7.0 mmol, 1.0 g | C(#N)C1=NNC2=CC=CC=C12 | C8H5N3
reactant | benzyl bromide | 14.0 mmol, 1.7 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-3-cyanoindazole | 1.3 g | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C#N | C15H11N3
